US06573273B1
Using the general method of Example 143, 1-(4-aminobutyl)-2-methyl-6, 7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-4-amine (1.00 g, 3.7 mmol) was reacted with 4-morpholinecarbonyl chloride (0.43 mL, 3.7 mmol) to provide 1.14 g of N-[4-(4-amino-2-methyl-6, 7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-1-yl)butyl]morpholine-4-carboxamide as an off white solid, m.p. 133.6-134.6° C. Analysis: Calculated for C20H30N6O2.1.1H2O: %C, 59.12; %H, 7.99; %N, 20.68; Found: %C, 58.77; %H, 7.53; %N, 20.46.

reactant | 1-(4-aminobutyl)-2-methyl-6, 7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-4-amine | 3.7 mmol, 1.00 g | NCCCCN1C(=NC=2C(=NC=3CCCCC3C21)N)C | C15H23N5
reactant | 4-morpholinecarbonyl chloride | 3.7 mmol, 0.43 mL | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
product | N-[4-(4-amino-2-methyl-6, 7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-1-yl)butyl]morpholine-4-carboxamide | 1.14 g | NC1=NC=2CCCCC2C2=C1N=C(N2CCCCNC(=O)N2CCOCC2)C | C20H30N6O2
